US04058539
A mixture of 5 g of 19-hydroxy-17β-pivaloxyandrosta-4,6,8(14)-trien-3-one and 50 ml of methanol was cooled below 5° C. by an ice-bath, whereupon 500 mg. of sodium borohydride was added slowly and with stirring. After 85 minutes another 50 mg of sodium borohydride was added. The mixture was stirred with cooling for another 35 minutes, whereupon 10 ml of acetic acid-water 1:10 was added dropwise. After 10 minutes of further stirring without external cooling 2 g of sodium bicarbonate was added. The mixture was then concentrated at reduced pressure to a thick paste and 50 ml of water was added. The precipitate obtained was filtered and digested with benzene to yield 3β,19-dihydroxy-17β-pivaloxyandrosta-4,6,8(14)-triene, uv max 275 (sh), 285 and 300 (sh) mμ.

reactant | 19-hydroxy-17β-pivaloxyandrosta-4,6,8(14)-trien-3-one | 5 g | OC[C@]12CCC(C=C1C=CC1=C3CC[C@@H]([C@@]3(C)CC[C@H]21)OC(C(C)(C)C)=O)=O | C24H32O4
reactant | methanol | 50 ml | CO | CH4O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | sodium borohydride | 50 mg | [BH4-].[Na+]
reactant | sodium bicarbonate | 2 g | C([O-])(O)=O.[Na+]
solvent | acetic acid water | 10 ml | C(C)(=O)O.O
product | 3β,19-dihydroxy-17β-pivaloxyandrosta-4,6,8(14)-triene | O[C@@H]1C=C2C=CC3=C4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)OC(C(C)(C)C)=O | C24H34O4
